US09056874B2
2-((5-Ethyl-7-methyl-3-(1H-pyrazol-5-yl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of 2-((5-ethyl-7-methyl-3-(1H-pyrazol-5-yl)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile (63 mg, 0.118 mmol) and KOH (33.1 mg, 0.589 mmol) in EtOH (5 mL) was stirred at 100° C. for 0.5 h under microwave irradiation. The reaction mixture was diluted with CH2Cl2 and filtered through silica gel. The silica gel cake was washed with CH2Cl2/MeOH (c.a. 9/1). After concentration the resulting residue was purified by RP-HPLC (HC-A) to give the title compound. 1H NMR (TFA salt, 400 MHz, DMSO-d6) δ ppm 10.13 (br. s., 1H), 8.53 (s, 1H), 8.23 (d, J=8.60 Hz, 1H), 8.18 (br. d, J=8.60 Hz, 1H), 8.05 (s, 1H), 7.96 (d, J=2.78 Hz, 1H), 7.54 (s, 1H), 6.72 (br. s., 1H), 5.32 (br. s., 2H), 3.38 (q, J=7.60 Hz, 2H), 3.06 (s, 3H), 1.69 (t, J=7.58 Hz, 3H). HRMS calcd. for C23H20N6 (M+H)+ 381.1828. found 381.1828.

reactant | 2-((5-ethyl-7-methyl-3-(1H-pyrazol-5-yl)-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.118 mmol, 63 mg | C(C)C=1C(=C2C(=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=CC=NN1)CC1=NC2=C(N1)C=CC(=C2)C#N | C30H26N6O2S
reactant | KOH | 0.589 mmol, 33.1 mg | [OH-].[K+]
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-((5-Ethyl-7-methyl-3-(1H-pyrazol-5-yl)-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C(=CNC2=C(C1)C)C1=CC=NN1)CC1=NC2=C(N1)C=CC(=C2)C#N | C23H20N6
